US09388161B2
A mixture of (S)-1-(6-bromo-2-methyl-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.050 g, 0.153 mmol), tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.058 g, 0.153 mmol), chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) (XPhos 2nd generation precatalyst) (0.012 g, 0.015 mmol), and cesium carbonate (0.150 g, 0.460 mmol) in 1,4-dioxane (2.0 mL) and water (0.40 mL) was heated in the microwave at 100° C. for 2.5 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 50-100% ethyl acetate-hexane) to afford (5)-tert-butyl 4-(4-(1-acetyl-2-methyl-5-propoxy-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.063 g, 83%) as an off-white solid. MS (ESI, pos. ion) m/z 497 [M+H]+

reactant | (S)-1-(6-bromo-2-methyl-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.153 mmol, 0.050 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OCCC | C15H20BrNO2
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.153 mmol, 0.058 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | cesium carbonate | 0.460 mmol, 0.150 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.40 mL | O | H2O
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) | 0.015 mmol, 0.012 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | (5)-tert-butyl 4-(4-(1-acetyl-2-methyl-5-propoxy-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.063 g, 83% | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OCCC)C | C28H40N4O4
